US08669266B2
(iii) 4-[(S)-3-tert-Butoxycarbonyl-2-({4-[(R)-2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-propionyl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 121 mg of 4-((S)-3-tert-Butoxycarbonyl-2-{[4-((R)-1-carboxy-ethoxy)-7-methyl-quinoline-2-carbonyl]-amino}-propionyl)-piperazine-1-carboxylic acid ethyl ester in 1 ml of DCM, 43 mg of EDC, 43 mg of pentafluorophenol and 27 mg of NEM was added and the reaction mixture was stirred for 2 h. Then, 67 mg of (S)-Pyrrolidine-2-carboxylic acid cyclobutylamide trifluoroacetate and 20 mg of NEM in 2 ml of DCM was added. After 1 h the reaction mixture was diluted with water. After filtration through a chem Elut® cartridge by eluting with ethyl acetate the solvents were removed under reduced pressure. The isolated crude product was pure enough for the next reaction step.

reactant | 4-((S)-3-tert-Butoxycarbonyl-2-{[4-((R)-1-carboxy-ethoxy)-7-methyl-quinoline-2-carbonyl]-amino}-propionyl)-piperazine-1-carboxylic acid ethyl ester | 121 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)O[C@H](C)C(=O)O)C)=O | C29H38N4O9
reactant | EDC | 43 mg
reactant | pentafluorophenol | 43 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | (S)-Pyrrolidine-2-carboxylic acid cyclobutylamide trifluoroacetate | 67 mg | FC(C(=O)O)(F)F.C1(CCC1)NC(=O)[C@H]1NCCC1
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-[(S)-3-tert-Butoxycarbonyl-2-({4-[(R)-2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-1-methyl-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-propionyl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC(=CC=C2C(=C1)O[C@@H](C(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C)C)=O | C38H52N6O9
